// Generated for: spectre (Apr 19 14:31:02 2013 )
// Library name: gsclib045_lvt
// Cell name: TBUFX12
// View name: schematic

simulator lang=spectre

subckt TBUFX12 A OE Y VSS VDD
mp2 (non OEb net127 VDD) g45p1lvt w=(1.17u) l=45n nf=1 as=163.8f \
        ad=163.8f ps=2.62u pd=2.62u nrd=119.658m nrs=119.658m sa=140n \
        sb=140n sd=160n sca=67.91660 scb=0.06314 scc=0.00813 m=(1)
mp1 (net127 A VDD VDD) g45p1lvt w=(1.17u) l=45n nf=1 as=163.8f ad=163.8f \
        ps=2.62u pd=2.62u nrd=119.658m nrs=119.658m sa=140n sb=140n \
        sd=160n sca=67.91660 scb=0.06314 scc=0.00813 m=(1)
mp5 (Y pon VDD VDD) g45p1lvt w=(4.68u) l=45n nf=1 as=655.2f ad=655.2f \
        ps=9.64u pd=9.64u nrd=29.9145m nrs=29.9145m sa=140n sb=140n \
        sd=160n sca=47.84868 scb=0.05188 scc=0.00600 m=(1)
mp3 (pon A VDD VDD) g45p1lvt w=(1.17u) l=45n nf=1 as=163.8f ad=163.8f \
        ps=2.62u pd=2.62u nrd=119.658m nrs=119.658m sa=140n sb=140n \
        sd=160n sca=67.91660 scb=0.06314 scc=0.00813 m=(1)
mp4 (pon OE VDD VDD) g45p1lvt w=(1.17u) l=45n nf=1 as=163.8f ad=163.8f \
        ps=2.62u pd=2.62u nrd=119.658m nrs=119.658m sa=140n sb=140n \
        sd=160n sca=67.91660 scb=0.06314 scc=0.00813 m=(1)
mp0 (OEb OE VDD VDD) g45p1lvt w=(390n) l=45n nf=1 as=54.6f ad=54.6f \
        ps=1.06u pd=1.06u nrd=358.974m nrs=358.974m sa=140n sb=140n \
        sd=160n sca=114.89040 scb=0.09003 scc=0.01377 m=(1)
mn5 (Y non VSS VSS) g45n1lvt w=(3.12u) l=45n nf=1 as=436.8f ad=436.8f \
        ps=6.52u pd=6.52u nrd=44.8718m nrs=44.8718m sa=140n sb=140n \
        sd=160n sca=51.29851 scb=0.05376 scc=0.00636 m=(1)
mn3 (net144 A VSS VSS) g45n1lvt w=(770n) l=45n nf=1 as=107.8f ad=107.8f \
        ps=1.82u pd=1.82u nrd=181.818m nrs=181.818m sa=140n sb=140n \
        sd=160n sca=80.97697 scb=0.07088 scc=0.00960 m=(1)
mn0 (OEb OE VSS VSS) g45n1lvt w=(260n) l=45n nf=1 as=36.4f ad=36.4f \
        ps=800n pd=800n nrd=538.462m nrs=538.462m sa=140n sb=140n sd=160n \
        sca=144.98299 scb=0.10251 scc=0.01780 m=(1)
mn4 (pon OE net144 VSS) g45n1lvt w=(770n) l=45n nf=1 as=107.8f ad=107.8f \
        ps=1.82u pd=1.82u nrd=181.818m nrs=181.818m sa=140n sb=140n \
        sd=160n sca=80.97697 scb=0.07088 scc=0.00960 m=(1)
mn2 (non OEb VSS VSS) g45n1lvt w=(770n) l=45n nf=1 as=107.8f ad=107.8f \
        ps=1.82u pd=1.82u nrd=181.818m nrs=181.818m sa=140n sb=140n \
        sd=160n sca=80.97697 scb=0.07088 scc=0.00960 m=(1)
mn1 (non A VSS VSS) g45n1lvt w=(770n) l=45n nf=1 as=107.8f ad=107.8f \
        ps=1.82u pd=1.82u nrd=181.818m nrs=181.818m sa=140n sb=140n \
        sd=160n sca=80.97697 scb=0.07088 scc=0.00960 m=(1)
ends TBUFX12
// End of subcircuit definition.

