// Generated for: spectre (Apr 19 14:31:09 2013 )
// Library name: gsclib045_lvt
// Cell name: TBUFX8
// View name: schematic

simulator lang=spectre

subckt TBUFX8 A OE Y VSS VDD
mp2 (non OEb net127 VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp1 (net127 A VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp5 (Y pon VDD VDD) g45p1lvt w=(3.12u) l=45n nf=1 as=436.8f ad=436.8f \
        ps=6.52u pd=6.52u nrd=44.8718m nrs=44.8718m sa=140n sb=140n \
        sd=160n sca=51.29851 scb=0.05376 scc=0.00636 m=(1)
mp3 (pon A VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp4 (pon OE VDD VDD) g45p1lvt w=(780n) l=45n nf=1 as=109.2f ad=109.2f \
        ps=1.84u pd=1.84u nrd=179.487m nrs=179.487m sa=140n sb=140n \
        sd=160n sca=80.49887 scb=0.07059 scc=0.00954 m=(1)
mp0 (OEb OE VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mn5 (Y non VSS VSS) g45n1lvt w=(2.08u) l=45n nf=1 as=291.2f ad=291.2f \
        ps=4.44u pd=4.44u nrd=67.3077m nrs=67.3077m sa=140n sb=140n \
        sd=160n sca=56.39265 scb=0.05657 scc=0.00689 m=(1)
mn3 (net144 A VSS VSS) g45n1lvt w=(515n) l=45n nf=1 as=72.1f ad=72.1f \
        ps=1.31u pd=1.31u nrd=271.845m nrs=271.845m sa=140n sb=140n \
        sd=160n sca=98.78734 scb=0.08140 scc=0.01173 m=(1)
mn0 (OEb OE VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn4 (pon OE net144 VSS) g45n1lvt w=(515n) l=45n nf=1 as=72.1f ad=72.1f \
        ps=1.31u pd=1.31u nrd=271.845m nrs=271.845m sa=140n sb=140n \
        sd=160n sca=98.78734 scb=0.08140 scc=0.01173 m=(1)
mn2 (non OEb VSS VSS) g45n1lvt w=(515n) l=45n nf=1 as=72.1f ad=72.1f \
        ps=1.31u pd=1.31u nrd=271.845m nrs=271.845m sa=140n sb=140n \
        sd=160n sca=98.78734 scb=0.08140 scc=0.01173 m=(1)
mn1 (non A VSS VSS) g45n1lvt w=(515n) l=45n nf=1 as=72.1f ad=72.1f \
        ps=1.31u pd=1.31u nrd=271.845m nrs=271.845m sa=140n sb=140n \
        sd=160n sca=98.78734 scb=0.08140 scc=0.01173 m=(1)
ends TBUFX8
// End of subcircuit definition.

