// Generated for: spectre (Apr 19 14:38:14 2013 )
// Library name: gsclib045_lvt
// Cell name: TLATNCAX16
// View name: schematic

simulator lang=spectre

subckt TLATNCAX16 CK E ECK VSS VDD
mp6 (n0 CKbb net217 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp5 (net217 E VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp22 (ECK ECKb VDD VDD) g45p1lvt w=(6.23u) l=45n nf=1 as=872.2f \
        ad=872.2f ps=12.74u pd=12.74u nrd=22.4719m nrs=22.4719m sa=140n \
        sb=140n sd=160n sca=46.11574 scb=0.05095 scc=0.00583 m=(1)
mp16 (n0 CKb net205 VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp15 (net205 Eint VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f \
        ad=30.1f ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n \
        sd=160n sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp0 (CKb CK VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp1 (CKbb CKb VDD VDD) g45p1lvt w=(215n) l=45n nf=1 as=30.1f ad=30.1f \
        ps=710n pd=710n nrd=651.163m nrs=651.163m sa=140n sb=140n sd=160n \
        sca=162.02845 scb=0.10751 scc=0.02009 m=(1)
mp20 (ECKb Eint VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp21 (ECKb CKbb VDD VDD) g45p1lvt w=(1.56u) l=45n nf=1 as=218.4f \
        ad=218.4f ps=3.4u pd=3.4u nrd=89.7436m nrs=89.7436m sa=140n \
        sb=140n sd=160n sca=61.39246 scb=0.05939 scc=0.00742 m=(1)
mp10 (Eint n0 VDD VDD) g45p1lvt w=(620n) l=45n nf=1 as=86.8f ad=86.8f \
        ps=1.52u pd=1.52u nrd=225.806m nrs=225.806m sa=140n sb=140n \
        sd=160n sca=89.83593 scb=0.07618 scc=0.01064 m=(1)
mn5 (net254 E VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn6 (n0 CKb net254 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn22 (ECK ECKb VSS VSS) g45n1lvt w=(4.13u) l=45n nf=1 as=578.2f \
        ad=578.2f ps=8.54u pd=8.54u nrd=33.8983m nrs=33.8983m sa=140n \
        sb=140n sd=160n sca=48.77178 scb=0.05238 scc=0.00610 m=(1)
mn21 (ECKb CKbb net238 VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn20 (net238 Eint VSS VSS) g45n1lvt w=(1.04u) l=45n nf=1 as=145.6f \
        ad=145.6f ps=2.36u pd=2.36u nrd=134.615m nrs=134.615m sa=140n \
        sb=140n sd=160n sca=71.11936 scb=0.06501 scc=0.00848 m=(1)
mn16 (n0 CKbb net230 VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn15 (net230 Eint VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f \
        ad=20.3f ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n \
        sd=160n sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn0 (CKb CK VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
mn10 (Eint n0 VSS VSS) g45n1lvt w=(410n) l=45n nf=1 as=57.4f ad=57.4f \
        ps=1.1u pd=1.1u nrd=341.463m nrs=341.463m sa=140n sb=140n sd=160n \
        sca=111.73831 scb=0.08844 scc=0.01336 m=(1)
mn1 (CKbb CKb VSS VSS) g45n1lvt w=(145n) l=45n nf=1 as=20.3f ad=20.3f \
        ps=570n pd=570n nrd=965.517m nrs=965.517m sa=140n sb=140n sd=160n \
        sca=203.41795 scb=0.11509 scc=0.02523 m=(1)
ends TLATNCAX16
// End of subcircuit definition.

